US09388176B2
3-Bromo-5-methyl-N-[3-(trifluoromethyl)phenyl]benzamide
In a manner similar to that described in Preparation 41, 3-bromo-5-methylbenzoic acid (400 mg) and 3-(trifluoromethyl)aniline were converted to the title compound (388 mg, 58%).

reactant | 3-bromo-5-methylbenzoic acid | 400 mg | BrC=1C=C(C(=O)O)C=C(C1)C | C8H7BrO2
reactant | 3-(trifluoromethyl)aniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
product | 3-Bromo-5-methyl-N-[3-(trifluoromethyl)phenyl]benzamide | 388 mg, 58% | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=C(C1)C | C15H11BrF3NO
